US07858718B1
8-Bromo-2-(1-naphthyl)quinoline
A mixture of 2,8-dibromoquinoline (6.0 g, 21 mmol, prepared by the method of L. Mao et al., Tetrahedron Lett. 46 (2005) 8419), 1-naphthylboronic acid (4.1 g, 24 mmol), K2CO3 (6.6 g, 48 mmol), Pd(OAc)2 (0.1 g, 0.4 mmol), P(o-Tol)3 (0.25 g, 0.8 mmol), DME (50 mL) and water (10 mL) is refluxed for 6 h under stirring in an argon atmosphere. The mixture is then poured into water and extracted with CHCl3 (3×50 mL). The combined organic phase is washed with water and brine, and then concentrated. The residue is purified by column chromatography (silica gel 40, hexane/benzene 1:1). Yield of red purple oil: 4.1 g (57%).

reactant | 2,8-dibromoquinoline | BrC1=NC2=C(C=CC=C2C=C1)Br | C9H5Br2N
reactant | 1-naphthylboronic acid | 24 mmol, 4.1 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | K2CO3 | 48 mmol, 6.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | P(o-Tol)3 | 0.8 mmol, 0.25 g | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
catalyst | Pd(OAc)2 | 0.4 mmol, 0.1 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
solvent | DME | 50 mL | COCCOC | C4H10O2
product | 8-Bromo-2-(1-naphthyl)quinoline | BrC=1C=CC=C2C=CC(=NC12)C1=CC=CC2=CC=CC=C12 | C19H12BrN
